US08497281B2
Step 1: cis-2,2,2-trifluoro-1-[6-(1-methyl-1H-pyrazol-4-yl)-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl]-ethanone
The title compound is prepared from trifluoro-methanesulfonic acid cis-1-(2,2,2-trifluoro-acetyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-yl ester and 1-methyl-pyrazol-4-yl-boronic acid following a procedure analogous to that described in Step 2 of Intermediates 17 and 18. Yield: 32% of theory; LC (method 1): tR=3.88 min; Mass spectrum (ESI+): m/z=350 [M+H]+.

reactant | trifluoro-methanesulfonic acid cis-1-(2,2,2-trifluoro-acetyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridin-6-yl ester | FC(C(=O)N1[C@@H]2[C@H](CCC1)C=1C=C(C=CC1C2)OS(=O)(=O)C(F)(F)F)(F)F | C15H13F6NO4S
reactant | 1-methyl-pyrazol-4-yl-boronic acid | CN1N=CC(=C1)B(O)O | C4H7BN2O2
product | cis-2,2,2-trifluoro-1-[6-(1-methyl-1H-pyrazol-4-yl)-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl]-ethanone | Yield: 32% | FC(C(=O)N1[C@@H]2[C@H](CCC1)C=1C=C(C=CC1C2)C=2C=NN(C2)C)(F)F | C18H18F3N3O
